US09216173B2
This example describes the conversion of (B9) to (C11) shown in Scheme 2. Dioxane (2.40 mL) and sodium hydroxide (4.0 N in water, 0.36 mL, 1.4 mmol) were added to tert-butyl [(1S,2R)-2-({5-[(5-bromo-6-methylpyridin-2-yl)amino]-6-cyanopyridin-3-yl}amino)cyclohexyl]carbamate (PrepEx 1.6) (0.241 g, 0.481 mmol) in a scintillation vial. The vial was purged and flushed with argon three times before Pd2(dba)3 (0.013 g, 0.014 mmol) and 2-di-tert-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-tri-isopropylbiphenyl (0.028 g, 0.058 mmol) were added. The vial was purged and flushed three times with argon before the vial was sealed and heated to 80° C. After 4 hours, the reaction was cooled to room temperature, filtered through CELITE (washed with dichloromethane) and diluted with water. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-100% acetone/hexanes, linear gradient) to afford tert-butyl [(1S,2R)-2-({6-carbamoyl-5-[(5-hydroxy-6-methylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate. MS ESI calc'd. for C23H33N6O4 [M+H]+ 457. found 457.

reactant | sodium hydroxide | 1.4 mmol, 4.0 N, 0.36 mL | [OH-].[Na+]
reactant | tert-butyl [(1S,2R)-2-({5-[(5-bromo-6-methylpyridin-2-yl)amino]-6-cyanopyridin-3-yl}amino)cyclohexyl]carbamate | 0.481 mmol, 0.241 g | BrC=1C=CC(=NC1C)NC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C23H29BrN6O2
reactant | 2-di-tert-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-tri-isopropylbiphenyl | 0.058 mmol, 0.028 g | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C33H53P
reactant | Dioxane | 2.40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.014 mmol, 0.013 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl [(1S,2R)-2-({6-carbamoyl-5-[(5-hydroxy-6-methylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate | C(N)(=O)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=C(C=C1)O)C | C23H32N6O4
